US06329400B1
A solution of 10.0 g (76.2 mmol) of (2S)-2-amino-3,3-dimethylbutanoic acid in 100 mL of THF and 50 mL of water is treated at 25° C. with 20 mL (100 mmol) of 5 N aqueous sodium hydroxide followed by 20 g (91.6 mmol) of di-tert-butyl dicarbonate. The mixture is stirred vigorously at 25° C. for 24 h. The mixture is chilled to 0° C. and is treated dropwise with saturated aqueous sodium bisulfate solution to adjust the reaction mixture to pH 2. The mixture is extracted with two 200-mL portions of EtOAc. The combined organic phases are dried over magnesium sulfate and concentrated in vacuo to afford 18.5 g of crude (2S)-2-tert-butoxycarbonylamino-3,3-dimethylbutanoic acid. The crude acid is stirred in 200 mL of DMF at 0° C. as 12.3 g (91.1 mmol) of HOBt, 30 mL (273 mmol) of NMM, and 17.5 g (91.2 mmol) of EDC are added in turn. After 30 min at 0° C. 9.1 g (90.1 mmol) of 2-amino-1,3-thiazole is added. The mixture is stirred at 0° C. for 30 min and at 50° C. for 2 h. The mixture is then concentrated in vacuo and the residue is diluted with 250 mL of EtOAc. The organic phase is washed with water, saturated aqueous sodium chloride, is dried over magnesium sulfate, and concentrated in vacuo. Chromatography on silica gel (elution with 30% EtOAc-hexanes followed by 70% EtOAc-hexanes) affords 20.1 g (84%) of (2S)-2-tert-butoxycarbonylamino-3,3-dimethylbutanoic acid 1,3-thiazol-2-ylamide as an oil.

reactant | (2S)-2-amino-3,3-dimethylbutanoic acid | 76.2 mmol, 10.0 g | N[C@H](C(=O)O)C(C)(C)C | C6H13NO2
reactant | sodium hydroxide | 100 mmol, 5 N, 20 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 91.6 mmol, 20 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bisulfate | S([O-])(O)(=O)=O.[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | (2S)-2-tert-butoxycarbonylamino-3,3-dimethylbutanoic acid | 18.5 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C(C)(C)C | C11H21NO4
